US08871269B2
Formulation BJ (Leuprolide)—Organic Ion Assisted Encapsulation Method
PLGA polymer (MW 24,000,160 mg) was dissolved in CH2Cl2 (1000 μL). Leuprolide acetate (40 mg) was dissolved in BnOH (1000 μL) and added to the polymer solution yielding a homogeneous organic phase. The resulting organic phase was combined with a 1% PVA aqueous phase containing 10 mM disodium pamoate to provide an emulsion. The emulsion was collected directly into a 0.3% PVA solvent extraction solution (100 mL) and stirred for 10 minutes. A secondary extraction solution consisting of 2% isopropanol (200 mL) was added and stirred for an additional four hours. Hardened microparticles were collected by filtration, washed with water, air dried and stored at 4° C. This provided formulation BJ (157 mg, 78.5% yield) with a median particle size 54.0 μm. The core load (9.4%), encapsulation efficiency (47.0%) and in vitro burst (5.31%) were determined by RP-HPLC assay.

reactant | Leuprolide acetate | 40 mg | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6.CC(=O)O
reactant | disodium pamoate | 10 mM | C1=CC=C2C(=C1)C=C(C(=C2CC3=C(C(=CC4=CC=CC=C43)C(=O)O)O)O)C(=O)O.[Na+]
solvent | CH2Cl2 | 1000 μL | C(Cl)Cl | CH2Cl2
solvent | BnOH | 1000 μL | C(C1=CC=CC=C1)O | C7H8O
product | Leuprolide | 78.5% yield | CCNC(=O)[C@@H]1CCCN1C(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H](CC(C)C)NC(=O)[C@H](CC=2C=CC(=CC2)O)NC(=O)[C@H](CO)NC(=O)[C@H](CC3=CNC4=C3C=CC=C4)NC(=O)[C@H](CC5=CNC=N5)NC(=O)[C@@H]6CCC(=O)N6 | C59H84N16O12
